US07485634B2
Preparation of Ethyl 9-Fluoro-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate
The title compound was prepared in a manner similar to that described in Example 2 by using ethyl 9-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 10.57 (1H, br s), 8.04 (1H, s), 7.62 (2H, dd), 7.29 (1H, m), 7.16 (3H, m), 6.95 (1H, m), 4.24 (4H, m), 3.20 (2H, m), 1.22 (3H, t); MS (ES): 397 (MH+).

reactant | ethyl 9-fluoro-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=2C3=C(NC2C=C1)C(=CNCC3)C(=O)OCC | C15H15FN2O2
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | Ethyl 9-Fluoro-3-(4-fluorobenzoyl)-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylate | FC1=CC=2C3=C(NC2C=C1)C(=CN(CC3)C(C3=CC=C(C=C3)F)=O)C(=O)OCC | C22H18F2N2O3
